US04568679
A. 5-Acetyl-2-fluoropyridine (A)
To suspension of 20 gm. (142 mmoles) of 2-fluoro-5-pyridinecarboxylic acid (J. Am. Chem. Soc., 71, 1125 (1949)) in 750 ml. of ether, stirred and cooled in ice, was added 225 ml. of 1.6M methyl lithium (360 mmoles) in ether over 1 hr. The reaction was stirred for an additional 2 hr., then 300 ml. of ice water was added. The aqueous layer was washed with 2×100 ml. fresh ether, acidified and extracted with ether to give 5.0 gm. (25%) of unreacted starting acid.

reactant | 2-fluoro-5-pyridinecarboxylic acid | 142 mmoles | FC1=NC=C(C=C1)C(=O)O | C6H4FNO2
reactant | methyl lithium | 360 mmoles, 1.6M | C[Li]
solvent | ether | CCOCC | C4H10O
product | 5-Acetyl-2-fluoropyridine | C(C)(=O)C=1C=CC(=NC1)F | C7H6FNO
